;Spice netlist for an inverter and a capacitor
simulator lang=spectre

include "~/cadence/cellcharacs/model18.spi"
include "~/cadence/cellcharacs/cell18.spi"

vgnd (gnd 0) vsource dc=0
vvdd (vdd 0) vsource dc=1.8

acinput (nand_in 0) vsource dc=0 mag=1

R1 (nand_in nand_in1) resistor r=0

X1 (nand_in1 nand_out vdd gnd) nand wp=0.8u lp=0.2u wn=0.4u ln=0.2u 

Freq ac start=1e+1 stop=1e+9
save R1:currents
